US07816574B2
Test Sequence for Cumene Manufacture in a Fixed Bed Test
These experiments were conducted in a fixed bed ⅜″ or ¾″ OD tubular reactor in a downflow configuration. The reactor furnace was controlled in isothermal mode. The catalyst was dried off-line at 260° C. in air for 2 hours before loading into the reactor. Experiments were conducted with catalyst as whole extrudates loaded into the ⅜″ reactor. The catalyst bed was axially centered in the middle furnace zone. The catalyst used was extrudate form, spray-dried form, or extrudate crushed and sized to 250 microns to 297 microns depending on the experiment. All catalysts were packed with inert sand to fill the interstitial void spaces. Reaction conditions were 125° C., 2169 kPa-a and the benzene/propylene molar ratio was 2.8/1. Weight hourly space velocity was adjusted during the experiments and ranged from 1 hr−1 to 320 hr−1 on a propylene basis.

reactant | benzene propylene | C1=CC=CC=C1.C=CC
reactant | propylene | C=CC | C3H6
product | Cumene | C1(=CC=CC=C1)C(C)C | C9H12
